US06855722B2
c) 7-{2-[1-(2-Ethoxycarbonyl-1-m-tolyl-vinyl)-1H-indol-5-yloxy]-ethyl}-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester
The title compound was synthesized from 3-chloro-3-m-tolyl-acrylic acid ethyl ester and 7-[2-(1H-indol-5-yloxy)-ethyl]-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester using the procedure outlined in Example 18, step (d), in a 40% yield as an E/Z isomeric mixture. 1H NMR (CDCl3) δ 7.19 (m, 2.2H), 7.04 (m, 2.6H), 6.96 (m, 1.6H), 6.86 (m, 1.6H), 6.66 (m, 2H), 6.48 (d, 0.8H, J=0.8 Hz), 6.40 (d, 0.2H, J=0.8 Hz), 6.11 (s, 0.8H), 6.04 (s, 0.2H), 4.30 (m, 2H), 3.93 (m, 2H), 3.68 (m, 2H), 3.13 (t, 2H, J=6.4), 2.65 (t, 2H, J=6.4 Hz), 2.24 (s, 3H), 1.85 (m, 2H), 1.43 (s, 9H), 0.94 (t, 3H, J=6.8 Hz).

reactant | 3-chloro-3-m-tolyl-acrylic acid ethyl ester | C(C)OC(C=C(C=1C=C(C=CC1)C)Cl)=O | C12H13ClO2
reactant | 7-[2-(1H-indol-5-yloxy)-ethyl]-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(N=C12)CCOC=1C=C2C=CNC2=CC1 | C23H27N3O3
product | 7-{2-[1-(2-Ethoxycarbonyl-1-m-tolyl-vinyl)-1H-indol-5-yloxy]-ethyl}-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester | 40% yield | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(N=C12)CCOC=1C=C2C=CN(C2=CC1)C(=CC(=O)OCC)C=1C=C(C=CC1)C | C35H39N3O5
